US04152452
A suspension of N-(o-chlorobenzylidene)-2-methyl-3-chloroaniline (0.038 mole) is brought to reflux in 100 cc of absolute methanol. An equivalent of sodium borohydride (1.5 g.) is added in portions and refluxing is continued for 15 mins. The reaction mixture is cooled and diluted with an equal volume of cold water to precipitate a solid. This material is collected, washed with H2O and air dried. Recrystallization from ethanol gives N-(o-Chlorobenzyl)-2-methyl-3-chloroaniline. m.p. 63°-66° C.

reactant | N-(o-chlorobenzylidene)-2-methyl-3-chloroaniline | 0.038 mole | ClC1=C(C=NC2=C(C(=CC=C2)Cl)C)C=CC=C1 | C14H11Cl2N
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
solvent | methanol | 100 cc | CO | CH4O
solvent | water | O | H2O
product | N-(o-Chlorobenzyl)-2-methyl-3-chloroaniline | ClC1=C(CNC2=C(C(=CC=C2)Cl)C)C=CC=C1 | C14H13Cl2N
